US05045556
25 ml of methylamine solution (33% in ethanol) are diluted with 90 ml of dichloromethane. While cooling, 9.52 g (50 mmol) of 2,6-difluorophenylacetyl chloride dissolved in 10 ml of dichloromethane are added dropwise in such a manner that the temperature of the reaction mixture does not exceed 10°. The reaction mixture is stirred for a further hour at 10° and then extracted three times with water. The organic phase is dried over magnesium sulphate and concentrated. The crude product is recrystallised from dichloromethane/petroleum ether and yields 8.57 g (92.6% of the theoretical yield) of 2,6-difluorophenylacetic acid methylamide of m.p. 163°-164°.

reactant | methylamine | 25 ml | CN | CH5N
reactant | 2,6-difluorophenylacetyl chloride | 50 mmol, 9.52 g | FC1=C(C(=CC=C1)F)CC(=O)Cl | C8H5ClF2O
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,6-difluorophenylacetic acid methylamide | CNC(CC1=C(C=CC=C1F)F)=O | C9H9F2NO
